US04963543
To a solution of (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[N-(4-nitrobenzyloxycarbonyl)-N-(2-ureidoethyl)amino]methylpyrrolidine (1.75 g) in pyridine (17.5 ml) was added methanesulfonyl chloride (0.60 ml) at 0°~10° C. The mixture was stirred at the same temperature for 1 hour and at ambient temperature for 15 hours. The mixture was poured into a mixture of water (100 ml) and ethyl acetate (100 ml). The organic layer was washed in turn with 1N hydrochloric acid (100 ml×3), saturated sodium hydrogen carbonate (100 ml) and brine (100 ml), dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (30 g) and eluted with a mixture of methanol and chloroform (1:99 v/v) to give (2S, 4R)-2-[N-{2-(cyanoamino)ethyl}-N-(4-nitrobenzyloxycarbonyl)aminomethyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.53 g).

reactant | (2S, 4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-[N-(4-nitrobenzyloxycarbonyl)-N-(2-ureidoethyl)amino]methylpyrrolidine | 1.75 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN(CCNC(=O)N)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H28N6O10
reactant | methanesulfonyl chloride | 0.60 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 100 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 17.5 ml | N1=CC=CC=C1 | C5H5N
product | (2S, 4R)-2-[N-{2-(cyanoamino)ethyl}-N-(4-nitrobenzyloxycarbonyl)aminomethyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.53 g | C(#N)NCCN(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H28N6O11S
